US07452892B2
A. Preparation of 5-amino-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a stirring solution of 5-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (120 mg, 0.31 mmol) in 3 mL THF, was added ammonium hydroxide (28% in water, 0.12 mL, 1.8 mmol). The reaction mixture was stirred at room temperature for 3 h and then concentrated under reduced pressure. The resulting crude title compound was used in the next step without further purification. HPLC/MS: retention time=3.60 min, [M+H]30 =372.

reactant | 5-chloro-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.31 mmol, 120 mg | ClC1=NC(=C(C=2N1C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4O
reactant | ammonium hydroxide | 1.8 mmol, 0.12 mL | [OH-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-amino-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | NC1=NC(=C(C=2N1C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H11Cl2N5O
